* D:\Onedrive\Documents\kicad\Piezo_amplifier\Simulations\Piezo_amplifier.asc
V1 3.3V 0 3.3
R3 3.3V N008 10k
R4 N008 0 10k
R5 3.3V N006 10k
R6 N006 0 9k
R1 N001 N003 10k
R2 N002 N001 20k
V2 N003 N004 PULSE(-0 0.4 1u 1u 1m 100u 10m 100) AC 0.1
XU1 N008 N004 3.3V 0 N004 lmv324 lmv324
XU2 N004 N001 3.3V 0 N002 lmv324 lmv324
XU3 N006 N002 3.3V 0 N005 lmv324 lmv324
C1 N002 N001 22n
XU4 N005 N007 3.3V 0 N007 lmv324 lmv324
R7 N007 0 100
.tran 100m
.ic V(vc)=2.65
;ac dec 100 100m 1meg
.lib LMV324.sub
.backanno
.end
